US05247085
(R)-9-[(2-Hydroxy-2-oxo-1,4,2-dioxaphosphorinan-5-yl)methoxy]guanine
A solution of dicyclohexylcarbodiimide (0.615 g, 3.0 mmol) in t-butanol (10 ml) was added dropwise over 30 minutes to a solution of (S)-9-[3-hydroxy-2-(phosphonomethoxy)propoxy]guanine (0.20 g, 0.6 mmol) and N,N-dicyclohexyl-4-morpholinocarboxamidine (0.175 g, 0.6 mmol) in 50% aqueous t-butanol (30 ml). The reaction mixture was heated under reflux for 4 hours, allowed to cool to ambient temperature and evaporated to dryness. Water was added to the residue and the mixture filtered through a glass fibre filter paper. The filtrate was evaporated to dryness and the solid obtained purified on DEAE-Sephadex (HCO3- form) eluting with a linear gradient of aqueous triethylammonium bicarbonate (pH 7.5) from 0.001M to 0.25M. Relevant fractions were combined and evaporated to dryness co-evaporating with ethanol/water, 3:1 (x2) to remove all traces of triethylamine. The product was converted into the sodium salt using DOWEX 50W-X8 (Na+ form). The title compound was obtained as a white solid (0.12 g, 59%) after lyophilisation. IR: νmax (KBr) 3400, 3140, 1690, 1610, 1475, 1380, 1240, 1208, 1079, 1040, 1010, 960, 790 cm-1. 1H NMR: δH [(CD3)2SO] 3.42 (1H, dd, J=13.2 Hz, J=3.3 Hz, OCHBP), 3.55 (1H, dd, J=13.2 Hz, J= 8 Hz, OCHAP), 3.79 (1H, m, CH), 3.92 (1H, m, CHBOP), 4.07-4.32 (3H, m, CHAOP, NOCH2), 6.86 (2H, br.s, D2O exchangeable NH2), 7.90 (1H, s, H-8), 10.97 (1H, br.s, D2O exchangeable NH). m/z: (FAB, thioglycerol) 318 (M-Na+2H+), 340 (MH+).

reactant | dicyclohexylcarbodiimide | 3.0 mmol, 0.615 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (S)-9-[3-hydroxy-2-(phosphonomethoxy)propoxy]guanine | 0.6 mmol, 0.20 g | OC[C@@H](CON1C=2N=C(NC(C2N=C1)=O)N)OCP(=O)(O)O | C9H14N5O7P
solvent | t-butanol | 10 ml | C(C)(C)(C)O | C4H10O
solvent | t-butanol | 30 ml | C(C)(C)(C)O | C4H10O
product | (R)-9-[(2-Hydroxy-2-oxo-1,4,2-dioxaphosphorinan-5-yl)methoxy]guanine | OP1(OC[C@H](OC1)CON1C=2N=C(NC(C2N=C1)=O)N)=O | C9H12N5O6P
